US08748624B2
STEP C: 3-(5-(2-(((3′,4′-dichloro-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoic acid
Neat TFA (0.09 mL, 1.15 mmol) was added to a DCM solution (1 mL) of tert-butyl 3-(5-(2-(((3′,4′-dichloro-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoate (44 mg, 0.08 mmol). After 16 h the resulting mixture was concentrated in vacuo, dissolved in DCM and 1 N HCl in diethyl ether was added. The resulting solution was concentrated in vacuo and the DCM/HCl process was repeated 2×. The resulting solid was characterized as the corresponding HCl salt of the title compound.

reactant | TFA | 1.15 mmol, 0.09 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 3-(5-(2-(((3′,4′-dichloro-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoate | 0.08 mmol, 44 mg | ClC=1C=C(C=CC1Cl)C1=CC=C(C=C1)NCC1=C(C=CC=C1)C=1C=CC(=NC1)C(=O)NCCC(=O)OC(C)(C)C | C32H31Cl2N3O3
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 3-(5-(2-(((3′,4′-dichloro-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoic acid | ClC=1C=C(C=CC1Cl)C1=CC=C(C=C1)NCC1=C(C=CC=C1)C=1C=CC(=NC1)C(=O)NCCC(=O)O | C28H23Cl2N3O3
